*  ****************************************************************
*   INFINEON Power Transistors                                    *
*   Content:        SPICE Simulation Model Library                *
*   Device:         CoolSiC 1200V SiC Trench MOSFET G1            *
*   Package:        TO247-3 / TO247-4                             *
*   Model Types:    L3                                            *
*   Technology:     1200V                                         *
*   Date:           2019-03-29                                    *
*   Version:        22.003                                        *
*  ****************************************************************
*  ****************************************************************
*  ****************************************************************
*  ****************************************************************
*   Models provided by INFINEON are not warranted by INFINEON as  *
*   fully representing all of the specifications and operating    *
*   characteristics of the semiconductor product to which the     *
*   model relates. The model describes the characteristics of a   *
*   typical device.                                               *
*   In all cases, the current data sheet information for a given  *
*   device is the final design guideline and the only actual      *
*   performance specification.                                    *
*   Although models can be a useful tool in evaluating device     *
*   performance, they cannot model exact device performance under *
*   all conditions, nor are they intended to replace bread-       *
*   boarding for final verification. INFINEON therefore does not  *
*   assume any liability arising from their use.                  *
*   INFINEON reserves the right to change models without prior    *
*   notice.                                                       *
*  ****************************************************************
*  ****************************************************************
*   Technical restricitions:                                      *
*   The reverse recovery is not fully included in the model.      *
*   This may lead to results, not reflecting complete reality.    *
*  ****************************************************************
*  ****************************************************************
*   The models for Infineon Power MOSFET are evaluated with       *
*   SIMetrixTM-Spice simulator. The Infineon Power MOSFET models  *
*   are tested, verified and provided in Spice simulation code.   *
*  ****************************************************************
*  ****************************************************************
*   Infineon  | Terminals   |  Usage suggestion                   *
*   Level     |             |                                     *
*   ------------------------------------------------------------- *
*   L3        | DRAIN,      |  Self-heating effects,              *
*             | GATE,       |  modeling of heat flow              *
*             | SOURCE,     |  including thermal models of        *
*             | SOURCESENSE |  TO package.                        *
*             | Tj, Tcase   |                                     *
*  ****************************************************************
*   Detailed Information:                                         *
*                                                                 *
*   The model files are available on the Infineon web page:       *
*   http://www.infineon.com                                       *
*                                                                 *
*   This library contains models of the following INFINEON        *
*   CoolSiC transistors:                                          *
*                                                                 *
*   G1 1200V                                                      *
*        IMW120R045M1_L3  PG-TO247-3 3pin                         *
*        IMZ120R045M1_L3  PG-TO247-4 4pin                         *
*                                                                 *
*  ****************************************************************
*  ****************************************************************
.SUBCKT Z00GD N068E N084Z N09A6 N0BV2 N0BW9 N0DXO N0KAA N0LXI
R0N5W N068E N0O04 0.000947421121512
L0UYM N0O04 N0BW9 5.72927867405E-09
K11PD L0W8T L0Y7H 0.157979
K0YUW L0UYM L0VLN 0.415103
K10SZ L0VLN L0W8T -0.353038
K0Z1Y L0UYM L0W8T -0.276277
L0W8T N0Q8A N0KAA 1.04850911103E-08
R0QJM N0BV2 N0U7O 0.000193358571071
L0VLN N0P32 N0DXO 8.82730949491E-09
K10B8 L0UYM L0Y7H -0.354813
R0P4B N09A6 N0Q8A 0.0453262630241
K10WQ L0VLN L0Y7H -0.214223
R0O2J N084Z N0P32 0.0359558482959
L0Y7H N0U7O N0LXI 5.75191161233E-09
.ENDS Z00GD
.SUBCKT Z020Z N068E N084Z N09A6 N0BV2 N0BW9 N0DXO
R0N5W N068E N13NE 0.00104621039041
K10SZ L0VLN L0W8T 0.316053
L0UYM N13NE N0BV2 6.07095794984E-09
L0W8T N1470 N0DXO 4.2951623973E-09
K0YUW L0UYM L0VLN -0.148673
R0P4B N09A6 N1470 0.000135285865827
K0Z1Y L0UYM L0W8T -0.392287
R0O2J N084Z N13QV 0.0366223573565
L0VLN N13QV N0BW9 8.91397291269E-09
.ENDS Z020Z
.SUBCKT Z03P0 N16AQ TCASE
R1B6H N1B3S N1BM0 2.165E-01
R182R N16AQ N1B3S 1.595E-01
C1JR8 N1BM0 0 8.060E-02
C1EA7 N16AQ 0 3.384E-03
C1HPO N1B3S 0 8.522E-03
C1LMU N1DCP 0 1.561E+02
R1CXE N1BM0 N1DCP 1.315E-01
R1E16 N1DCP TCASE 3.200E-03
.ENDS Z03P0
.SUBCKT Z05LO N1MXB N1NWB N1OHC N1Q60 N16AQ
.PARAM N5Q3H = {-0.0014588}
.PARAM N3YDP = {-0.041317}
R21S6 N22IP N1NWB {N1SU1}
.FUNC N78J8(N6MUM,N6JTX,N6N5C) = {N792N(N6MUM) + N79HG(N6MUM) * N6REC(N6MUM,N6JTX,N6N5C)}
.PARAM N7MTU = { 0.44048 }
.PARAM N6GOH = {0.98369}
.PARAM N2GYI = {7.9570E-10}
C4YPP N4XMB N22IP {N4GYF()}
C3NVF N3NM0 N253H {N2GYI}
.PARAM N3UP2 = {3.4853E-05}
.PARAM N7LUD = { 0.012969 }
R4M46 N21MN N22IP 10G
.FUNC N2VZ4() = {N2EU5 * EXP(N2J92 * N2P8Q)}
.FUNC N4F01() = {N3U93 / (N3YDP * N4CD0() )}
R362X N21MN N3AJZ 600M
C503R N5027 N22IP {N4LIP()}
C3Q6G N3OKL N253H {1870E-12}
.FUNC N6NLY(N6MUM,N6JTX,N6N5C) = {N6RXN(N6MUM)*(N6TEB(N6MUM) + 1/((N6REC(N6MUM,N6JTX,N6N5C))**N6V56(N6MUM)))}
.FUNC N4BKN() = {N3QSQ * EXP(N3XHX * N43OM)}
.PARAM N7PFP = { -0.03104 }
.PARAM N5XUE = {-0.00057889}
.FUNC N6TEB(N6MUM) = {N5843 + N58A2*N6MUM + N5A9I*N6MUM**2 + N5BVP*N6MUM**3}
C50RH N50F7 N22IP {N3WB4}
E3IN6 N3AJZ N3IXL VALUE {IF( V(N3AJZ,N253H) > N2ONL, V(N3AJZ,N253H) - (N2U4T()*(EXP(N2IJ6* V(N3AJZ,N253H)) - EXP(N2IJ6*N2ONL)) + N2ONL),0)}
.FUNC N6QU4(N6MUM) = {N558I + N57IV*N6MUM}
.PARAM N556X = {6.7E-4}
.FUNC N4CD0() = {N3U93 * EXP(N3YDP * N44KO)}
.PARAM N1XKW = {1.0}
.PARAM N5XOL = {0.062215}
.PARAM N5158 = {0.001799}
G831N N21MN N253H VALUE = { N812U( V(N16AQ,0) , V(N21MN,N253H), V(N22IP,N253H) ) }
.PARAM N3U93 = {3.6735E-11}
.PARAM N2J92 = {-0.044705}
.PARAM N5Q1X = {-5.9345E-05}
.FUNC N7ZD7(N6MUM,N6N5C) = { N7FOF + N7KHR * N6MUM + N7L7P * N7ZCL(N6N5C) + N7LUD * N7ZCL(N6N5C)**2 }
.PARAM N6B98 = {-0.049241}
V23JZ N253H N1OHC DC=0
.FUNC N792N(N6MUM) = {N666I + N68QJ*N6MUM + N6AS3*N6MUM**2}
.PARAM N5T46 = {1.3799}
.FUNC N82VZ(N6MUM, N6JTX, N6N5C) = { IF( -N7U2C(N6MUM, N6JTX, N6N5C) - N7UCI(N6MUM,N6N5C) > 0, -N7U2C(N6MUM, N6JTX, N6N5C) - N7UCI(N6MUM,N6N5C) , 0) }
.FUNC N4KHT() = {N3UP2 / (N409X * N4GYF() )}
.FUNC N2TTT() = {N2BJZ / (N2H44 * N2SMJ() )}
.FUNC N4LIP() = {N3VLR * EXP(N411I * N4ATC)}
.PARAM N5843 = {0.0036468}
.PARAM N7B5L = { 1.0078 }
.PARAM N3Q9M = {1.3822E-11}
C4TYK N4TKS N22IP {N4BKN()}
.FUNC N6I1R(N6JTX) = {((TANH((ABS(N6JTX)-N65SQ)*N65ZF)-TANH((-N65SQ)*N65ZF))/(1-TANH((-N65SQ)*N65ZF)))}
.PARAM N2EU5 = {4.0075E-10}
.FUNC N7899(N6MUM,N6JTX,N6N5C) = {1+(N78J8(N6MUM,N6JTX,N6N5C)*N6I1R(N6JTX))}
.PARAM N7KHR = { -0.0018237 }
E4SXH N4MK9 N4TKS VALUE {IF(V(N4MK9,N22IP) > N43OM, V(N4MK9,N22IP) - N4C4K()*(EXP(N3XHX*V(N4MK9,N22IP)) - EXP(N3XHX*N43OM)) + N43OM ,0)}
C4WEI N4UTC N22IP {N4CD0()}
.PARAM N5Q21 = {3.7735}
.FUNC N6NOS(N6MUM,N6N5C) = {IF(N6N5C >0, N72NI(N6MUM) + N74OF(N6MUM) * N6N5C, 1) }
.FUNC N2U4T() = {N2DPG / (N2IJ6 * N2U16() )}
E3KXR N3AJZ N3NM0 VALUE {IF( V(N3AJZ,N253H) > 0, V(N3AJZ,N253H) - (EXP(N2LTK* V(N3AJZ,N253H))-1.0)/N2LTK ,0)}
E4U1Y N4MK9 N4UTC VALUE {IF(V(N4MK9,N22IP) > N44KO, V(N4MK9,N22IP) - N4F01()*(EXP(N3YDP*V(N4MK9,N22IP)) - EXP(N3YDP*N44KO)) + N44KO,0)}
.PARAM N44KO = {0.78289}
.PARAM N6CPL = {4.7648E-05}
.PARAM N7PDC = { 0.5369 }
.PARAM N2H44 = {-0.0056225}
.PARAM N1SU1 = {4.2}
.PARAM N7OUF = { -0.001168 }
C4QDV N4MK9 N22IP {N3Q9M}
.PARAM N411I = {-0.0056338}
.PARAM N7S4Y = { 0.0012545 }
.PARAM N5R9R = {-0.057376}
.PARAM N5IMB = {2.0056E-05}
G835A 0 N1Q60 VALUE = {LIMIT( I(V23JZ)*(V(N21MN,N253H)) ,-100K,100K) }
.PARAM N2OEX = {2.9364}
.PARAM N5KIT = {6.2099}
E4ZOC N4MK9 N5027 VALUE {IF(V(N4MK9,N22IP) > N4ATC, V(N4MK9,N22IP) - N4LQY()*(EXP(N411I*V(N4MK9,N22IP)) - EXP(N411I*N4ATC)) + N4ATC,0)}
.FUNC N2U16() = {N2DPG * EXP(N2IJ6 * N2ONL)}
R3O7K N22IP N3OKL 10M
R3NXR N22IP N253H 10G
.PARAM N2P8Q = {2.9448}
.PARAM N43OM = {4.0915}
.FUNC N6RXN(N6MUM) = {N1XKW * N521C + N556X *N6MUM}
.PARAM N7FOF = { 13.8213 }
.PARAM N4BEZ = {0.0}
.PARAM N7F51 = { 20.097 }
.FUNC N6XVB(N6MUM,N6N5C) = {IF(N6N5C >0, N5Q21 + N5Q3H*N6MUM + N5R9R*N6N5C, 1) }
.PARAM N6EIN = {1.2938E-07}
.FUNC N4C4K() = {N3QSQ / (N3XHX * N4BKN() )}
.FUNC N6MUE(N6MUM,N6JTX,N6N5C) = {N6NAQ(N6MUM,N6JTX,N6N5C)*((TANH((N6JTX/(N6NAQ(N6MUM,N6JTX,N6N5C)*N6NLY(N6MUM,N6JTX,N6N5C)))**(1/N6NOS(N6MUM,N6N5C))))**N6NOS(N6MUM,N6N5C))}
.PARAM N65SQ = {7.8768}
.PARAM N3QSQ = {6.2336E-06}
.FUNC N7UCI(N6MUM,N6N5C) = { N7MTU + N7OUF * N6MUM + N7PDC * N7ZCL(N6N5C) + N7PFP * N7ZCL(N6N5C)**2 + N7QQG * N7ZCL(N6N5C)**3 }
R20LO N21MN N1MXB 1U
.FUNC N4LQY() = {N3VLR / (N411I * N4LIP() )}
.FUNC N6VPE(N6MUM) = {(N5L44 - N5Q1X * N6MUM)}
.FUNC N72NI(N6MUM) = {N5T46 + N5X2T*N6MUM + N5X3M*N6MUM**2}
C3I3J N3EX1 N253H {N2SMJ()}
.FUNC N33FY() = {N2GYI * EXP(N2LTK * N2Q2D)}
.PARAM N7QQG = { 0.00031068 }
R4MJ6 N21MN N4MK9 10M
.PARAM N2ONL = {5.1433}
.PARAM N666I = {1.7712}
.PARAM N409X = {-2.5602}
.FUNC N79OA(N6JTX) = {N6JTX**N6FHT}
E50AQ N4MK9 N50F7 VALUE {IF(V(N4MK9,N22IP) > 0, V(N4MK9,N22IP) - (EXP(N415U*V(N4MK9,N22IP))-1)/N415U,0)}
C3KK5 N3KIO N253H {N2VZ4()}
.FUNC N6REC(N6MUM,N6JTX,N6N5C) = {(N6QD9(N6MUM,N6JTX,N6N5C) + LN(2*COSH(N6QD9(N6MUM,N6JTX,N6N5C))))/2 + 0.0001}
R857J 0 N1Q60 1
.PARAM N5A9I = {1.245E-07}
.PARAM N65ZF = {0.0064023}
.FUNC N6Q0G(N6JTX) = {N5158*N6JTX}
.PARAM N2IJ6 = {-3.9961}
.PARAM N3XHX = {-2.7497}
.PARAM N3WB4 = {2.4230E-10}
.PARAM N7L7P = { -0.87861 }
.FUNC N6QD9(N6MUM,N6JTX,N6N5C) = {N6N5C - (N6QU4(N6MUM) + N201O + N51U4 - N6Q0G(N6JTX))}
.PARAM N7RJY = { 1.3366 }
.FUNC N80EK(N6MUM,N6N5C) = { N7RJY + N7S4Y * N6MUM + N7TWB * N7ZCL(N6N5C) }
.PARAM N1YTT = {1.0}
R35VG N21MN N253H 10G
.PARAM N558I = {5.3597}
.PARAM N49CG = {5.0207}
.FUNC N7ZCL(N6N5C) = { N7B5L *( LIMIT(N6N5C,-20,0) + N7F51 ) }
C3AY3 N3AJZ N253H {N25DC}
.PARAM N58A2 = {5.9317E-06}
.PARAM N2BJZ = {2.5265E-10}
.PARAM N201O = {0.0}
.PARAM N25DC = {9.5178E-11}
.PARAM N5FZV = {-0.0016094}
.FUNC N812U(N6MUM, N6JTX, N6N5C) = { (- N7ZD7(N6MUM,N6N5C) * ( N82VZ(N6MUM, N6JTX, N6N5C) ) ** N80EK(N6MUM,N6N5C) ) }
.PARAM N5E2C = {2.5705}
.FUNC N6NAQ(N6MUM,N6JTX,N6N5C) = {N1YTT*N5KIT*(N6VPE(N6MUM)*N6REC(N6MUM,N6JTX,N6N5C))**N6XVB(N6MUM,N6N5C)}
.PARAM N6AS3 = {7.7332E-06}
C3J6V N3IXL N253H {N2U16()}
.PARAM N5L44 = {0.23745}
.FUNC N2SMJ() = {N2BJZ * EXP(N2H44 * N2OEX)}
.PARAM N521C = {5.2807}
.FUNC N7U2C(N6MUM, N6JTX, N6N5C) = { LIMIT( N6JTX, -100.0, -N7UCI(N6MUM,N6N5C)) }
.PARAM N2Q2D = {-1.2318E-16}
.PARAM N415U = {-0.43366}
.PARAM N5X3M = {-2.8105E-05}
.PARAM N6FHT = {0.053196}
.PARAM N61VI = {1.3012E-06}
.PARAM N68QJ = {-0.0064033}
.PARAM N5BVP = {9.8519E-11}
.PARAM N2DPG = {0.2039}
.FUNC N2X13() = {N2EU5 / (N2J92 * N2VZ4() )}
E3BXF N3AJZ N3EX1 VALUE {IF( V(N3AJZ,N253H) > N2OEX, V(N3AJZ,N253H) - (N2TTT()*(EXP(N2H44* V(N3AJZ,N253H)) - EXP(N2H44*N2OEX)) + N2OEX),0)}
.FUNC N4GYF() = {N3UP2 * EXP(N409X * N49CG)}
.PARAM N51U4 = {-0.6623}
.FUNC N79QP(N6MUM,N6JTX,N6N5C) = {N6MUE(N6MUM,N6JTX,N6N5C)*N7899(N6MUM,N6JTX,N6N5C)*N79OA(N6JTX) + EXP(0.25*(N6JTX-1425.0)) }
E3KDA N3AJZ N3KIO VALUE {IF( V(N3AJZ,N253H) > N2P8Q, V(N3AJZ,N253H) - (N2X13()*(EXP(N2J92* V(N3AJZ,N253H)) - EXP(N2J92*N2P8Q)) + N2P8Q),0)}
.FUNC N7AAN(N6MUM,N6JTX,N6N5C) = {N6JTX/(N6NLY(N6MUM,N6JTX,N6N5C))}
.PARAM N57IV = {-0.006884}
G7ATG N21MN N253H VALUE = { N6GOH * IF(V(N21MN,N253H) > 0.0,N79QP(V(N16AQ,0),V(N21MN,N253H),V(N22IP,N253H)), N7AAN(V(N16AQ,0),V(N21MN,N253H),V(N22IP,N253H)))}
.FUNC N79HG(N6MUM) = {N6B98 + N6CPL*N6MUM + N6EIN*N6MUM**2}
.PARAM N2LTK = {-0.28764}
.FUNC N6V56(N6MUM) = {N5E2C + N5FZV*N6MUM + N5IMB*N6MUM**2}
E4WMQ N4MK9 N4XMB VALUE {IF(V(N4MK9,N22IP) > N49CG, V(N4MK9,N22IP) - N4KHT()*(EXP(N409X*V(N4MK9,N22IP)) - EXP(N409X*N49CG)) + N49CG,0)}
.PARAM N3VLR = {2.2102E-11}
.FUNC N34BQ() = {N2GYI / (N2LTK * N33FY() )}
.PARAM N5X2T = {0.0086727}
.FUNC N74OF(N6MUM) = {N5XOL + N5XUE*N6MUM + N61VI*N6MUM**2}
.PARAM N4ATC = {4.4112}
.PARAM N7TWB = { 0.058315 }
.ENDS Z05LO
.SUBCKT IMZ120R045M1_L3 DRAIN GATE SOURCE SOURCESENSE TJ TCASE
X87K3 TJ TCASE Z03P0
G88P9 0 TJ VALUE = {IF(TIME > 0,LIMIT(V(N1Q60,0),-1E6,1E6),0)}
R89RS TJ 0 1MEG
X85ZA N253H N253H GATE DRAIN SOURCE SOURCESENSE N22IP N21MN Z00GD
X88BN N21MN N22IP N253H N1Q60 TJ Z05LO
.ENDS IMZ120R045M1_L3
.SUBCKT IMW120R045M1_L3 DRAIN GATE SOURCE TJ TCASE
G88P9 0 TJ VALUE = {IF(TIME > 0,LIMIT(V(N1Q60,0),-1E6,1E6),0)}
X87K3 TJ TCASE Z03P0
X8A30 N253H GATE DRAIN SOURCE N22IP N21MN Z020Z
R89RS TJ 0 1MEG
X88BN N21MN N22IP N253H N1Q60 TJ Z05LO
.ENDS IMW120R045M1_L3
* ========================================================================================
